US06103910
A solution of 7.99 g (0.026 mol) diphenyl diselenide in 250 ml ethanol was treated with 1.59 g (0.042 mol) sodium borohydride and stirring was continued until the yellow solution turned colorless. After addition of 20.0 g (0.042 mol) (2R,4R)-4-(toluene-4-sulfonyloxy)-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester the mixture was refluxed for 2.5 hours. A white precipitate was filtered off and the solvent was removed in vacuo. Chromatography on silicagel with dichloromethane/methanol 98:2 gave 8.48 g (51%) (2R,4S)-4-Phenylselanyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester as a colorless oil.

reactant | diphenyl diselenide | 0.026 mol, 7.99 g | C1(=CC=CC=C1)[Se][Se]C1=CC=CC=C1 | C12H10Se2
reactant | sodium borohydride | 0.042 mol, 1.59 g | [BH4-].[Na+]
reactant | (2R,4R)-4-(toluene-4-sulfonyloxy)-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 0.042 mol, 20.0 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC1=CC=CC=C1 | C24H29NO7S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | (2R,4S)-4-Phenylselanyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 8.48 g, 51% | CCOC(=O)[C@@H]1N(C[C@H](C1)[Se]C1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25NO4Se
